US05354867
PART D. Preparation of 4-phenylethynyl-3-n-propyl-1-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl) methyl]imidazole-5-carboxaldehyde
3-n-Propyl-4-(phenylethynyl)imidazole-5-carboxaldehyde was alkylated with 4-bromomethyl-2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl by the procedure described in example 1, parts D and I, to yield the entitled product. NMR (CDCl3) δ 9.88 (s,1H): 8.03 (m,1H); 7.57-7.27 (m,8H); 7.17 (m,2H); 7.01 (m,2H); 5.55 (s,2H); 2.61 (t,2H); 1.75 (m,2H); 0.99 (t,3H).

reactant | 3-n-Propyl-4-(phenylethynyl)imidazole-5-carboxaldehyde | C(CC)N1C=NC(=C1C#CC1=CC=CC=C1)C=O | C15H14N2O
reactant | 4-bromomethyl-2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
product | 4-phenylethynyl-3-n-propyl-1-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl) methyl]imidazole-5-carboxaldehyde | C1(=CC=CC=C1)C#CC=1N(CN(C1C=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC | C29H26N6O
